US04806151
Pilot-plant scale preparation of n-propyl-4-chloro-3,5-dinitro-benzoate
Into a 50 l enamelled double-walled apparatus equipped with a stirrer and adjusted to azeotropic distillation 7.5 kg (0.125 kmole) of n-propanol, 19 kg of benzene, 25 kg (0.1 kmole) of 4-chloro-3,5-dinitro-benzoic acid and 1 kg of concentrated sulfuric acid are weighed in. The reactor is closed and the content thereof is heated to boiling by means of steam heating. The reaction mixture is heated to boiling (86°-90° C. until no more water leaves the system while the organic phase (a mixture of benzene and n-propanol) is continuously reintroduced into the reactor. Once the distillation of water is completed (5-7 hours) the mixture is cooled below 20° C., the precipitated crystals are isolated by centrifugation, washed with cold benzene and dried. Thus 25.4 kg of the desired compound are obtained, yield 88%, purity 97%.

reactant | 4-chloro-3,5-dinitro-benzoic acid | 0.1 kmole, 25 kg | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | sulfuric acid | 1 kg | S(O)(O)(=O)=O | H2O4S
reactant | n-propanol | C(CC)O | C3H8O
reactant | n-propanol | 0.125 kmole, 7.5 kg | C(CC)O | C3H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzene | 19 kg | C1=CC=CC=C1 | C6H6
product | n-propyl-4-chloro-3,5-dinitro-benzoate | 25.4 kg, yield 88% | C(CC)OC(C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-])=O | C10H9ClN2O6
